US04622418
N-Cbz-2-Methyl aziridine and 2,2,5,5-tetramethyl-1-cyclopentanol are dissolved in CH2Cl2 at 0° C. under argon. Boron trifluoride etherate is added and the flask is stirred overnight. The contents are poured into saturated NaHCO3 and are extracted with ethyl acetate. The organic layer is dried over MgSO4 and evaporated to yield N-Cbz-1-(2-aminopropoxy)-2,2,5,5-tetramethylcyclopentane.

reactant | N-Cbz-2-Methyl aziridine | C(=O)(OCC1=CC=CC=C1)N1C(C1)C | C11H13NO2
reactant | 2,2,5,5-tetramethyl-1-cyclopentanol | CC1(C(C(CC1)(C)C)O)C | C9H18O
reactant | Boron trifluoride etherate | B(F)(F)F.CCOCC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-Cbz-1-(2-aminopropoxy)-2,2,5,5-tetramethylcyclopentane | C(=O)(OCC1=CC=CC=C1)NC(COC1C(CCC1(C)C)(C)C)C | C20H31NO3
